US06211215B1
In substantially the same manner as in Reference Example 12, 6-[4-[2-[(E)-2-phenylethenyl]-4-oxazolyl methoxy]phenyl]hexanol was allowed to react with methanesulfonyl chloride to give 6-[4-[2-[(E)-2-phenyl ethenyl]-4-oxazolylmethoxy]phenyl]hexyl methanesulfonate. The yield was 97%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 88-89° C.

reactant | 6-[4-[2-[(E)-2-phenylethenyl]-4-oxazolyl methoxy]phenyl]hexanol | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCCCO | C24H27NO3
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 6-[4-[2-[(E)-2-phenyl ethenyl]-4-oxazolylmethoxy]phenyl]hexyl methanesulfonate | yield was 97% | CS(=O)(=O)OCCCCCCC1=CC=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C25H29NO5S
